US08445489B2
Step 2: 2-(3,4-Diaminobenzyl)-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one
3.5 g (9.4 mmol) of 2-benzo-1,2,5-thiadiazol-5-ylmethyl-6-(3,4,5-tri-fluorophenyl)-2H-pyridazin-3-one are dissolved in 35 ml of THF and hydrogenated under a hydrogen atmosphere in an autoclave at 30° C. under a pressure of 2 bar with 2 g of Raney Ni (70%, water-moist). After 17 h, a further 3 g of Raney Ni (70%, water-moist) are added, and the mixture is hydrogenated at 35° C. under a pressure of 2 bar for a further 16 h. The catalyst is separated off, rinsed, and the filtrate is evaporated to dryness.

reactant | 2-benzo-1,2,5-thiadiazol-5-ylmethyl-6-(3,4,5-tri-fluorophenyl)-2H-pyridazin-3-one | 9.4 mmol, 3.5 g | N1=C2C(=NS1)C=C(C=C2)CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F | C17H9F3N4OS
solvent | THF | 35 ml | C1CCOC1 | C4H8O
catalyst | Ni | [Ni] | Ni
product | 2-(3,4-Diaminobenzyl)-6-(3,4,5-trifluorophenyl)-2H-pyridazin-3-one | NC=1C=C(CN2N=C(C=CC2=O)C2=CC(=C(C(=C2)F)F)F)C=CC1N | C17H13F3N4O
